US04329347
6-[4-(2-Furylmethyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from furfuryl-mercaptan and 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril (m.p. 142°-147° C.).

reactant | furfuryl-mercaptan | C(C1=CC=CO1)S | C5H6OS
reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
product | 6-[4-(2-Furylmethyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | O1C(=CC=C1)CSCCCCOC=1C=C2CCC(NC2=CC1)=O | C18H21NO3S
